US05889182
N-Isopropyl-2-(5-methyl-2-oxo-2,3,4,5-tetrahydro-benzo [e][1,4]diazepin-1-yl) -N-phenyl-acetamide
To 2-(3-amino-5-methyl-2-oxo-2,3-dihydro-benzo[e][1,4]diazepin-1-yl)-N-isopropyl-N-phenyl acetamide benzyl carbamate (783 mg, 1.60 mmol) in methanol (16 mL) was added 10% palladium on carbon (320 mg). The resulting mixture was stirred under a hydrogen atmosphere for 15 h. The solids were removed by filtration through a pad of celite. The celite pad was washed with methanol and the filtrate concentrated in vacuo to give the titled compound (611 mg, 100%). Rf =0.04 (2/3 ethyl acetate/hexane); 1HNMR (300 MHz, CD3OD) d 1.06 (d, J=6.9 Hz, 3H), 1.08 (d, J=6.9 Hz, 3H), 1.47 (d, J=6.3 Hz, 3H), 3.18 (s, 2H), 4.07 (d, J=16.6 Hz, 1H), 4.20 (d, J=16.6 Hz, 1H), 4.43 (m, 1H), 7.21 (m, 1H), 7.34 (m, 6H), 7.51 (m, 3H).

reactant | 2-(3-amino-5-methyl-2-oxo-2,3-dihydro-benzo[e][1,4]diazepin-1-yl)-N-isopropyl-N-phenyl acetamide benzyl carbamate | 1.60 mmol, 783 mg | C(C1=CC=CC=C1)NC(O)=O.NC1N=C(C2=C(N(C1=O)CC(=O)N(C1=CC=CC=C1)C(C)C)C=CC=C2)C
solvent | methanol | 16 mL | CO | CH4O
catalyst | palladium on carbon | 320 mg | [Pd] | Pd
product | N-Isopropyl-2-(5-methyl-2-oxo-2,3,4,5-tetrahydro-benzo [e][1,4]diazepin-1-yl) -N-phenyl-acetamide | 611 mg, 100% | C(C)(C)N(C(CN1C(CNC(C2=C1C=CC=C2)C)=O)=O)C2=CC=CC=C2 | C21H25N3O2
